US06762320B2
N-[4-(2,4,5-Trifluoro-benzyloxy)-phenyl]-malonamide
Prepared in analogy to example 3 from N-[4-(2,4,5-trifluoro-benzyloxy)-phenyl]-malonamic acid methyl ester and ammonium hydroxide. Yield=52%. Colorless solid. MS: m/e=339.2 (M++H).

reactant | N-[4-(2,4,5-trifluoro-benzyloxy)-phenyl]-malonamic acid methyl ester | COC(CC(=O)NC1=CC=C(C=C1)OCC1=C(C=C(C(=C1)F)F)F)=O | C17H14F3NO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(2,4,5-Trifluoro-benzyloxy)-phenyl]-malonamide | Yield=52% | FC1=C(COC2=CC=C(C=C2)NC(CC(=O)N)=O)C=C(C(=C1)F)F | C16H13F3N2O3
